US04681898
A mixture of 24.6 grams (0.15 mole) of N,N-dimethyl-N'-phenyl-ethylenediamine and 18.2 grams (0.18 mole) of triethylamine in 500 milliliters of tetrahydrofuran (THF) is cooled to 0° C. and 39.8 grams (0.18 mole) of 5-methyl-3-phenyl-4-isoxazole carbonyl chloride in 100 milliliters of tetrahydrofuran is added dropwise. After the addition is complete, the mixture is warmed to room temperature and stirred for 4 hours. The resulting suspension is filtered and the THF removed in vacuo. The residue is dissolved in methylene chloride and washed with 2N sodium hydroxide and water and then dried over magnesium sulfate. The mixture is filtered and the solvent removed by evaporation. The residue is then treated with hexane to yield crystals of N-phenyl-N-(2-dimethylaminoethyl)-5-methyl-3-phenyl-4-isoxazole carboxamide; M.P. 88°-89° C.

reactant | N,N-dimethyl-N'-phenyl-ethylenediamine | 0.15 mole, 24.6 grams | CN(CCNC1=CC=CC=C1)C | C10H16N2
reactant | triethylamine | 0.18 mole, 18.2 grams | C(C)N(CC)CC | C6H15N
reactant | 5-methyl-3-phenyl-4-isoxazole carbonyl chloride | 0.18 mole, 39.8 grams | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)Cl | C11H8ClNO2
solvent | tetrahydrofuran | 500 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 milliliters | O1CCCC1 | C4H8O
product | N-phenyl-N-(2-dimethylaminoethyl)-5-methyl-3-phenyl-4-isoxazole carboxamide | C1(=CC=CC=C1)N(C(=O)C=1C(=NOC1C)C1=CC=CC=C1)CCN(C)C | C21H23N3O2
